Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
fluoxetine
 
Attending: ___.
 
Chief Complaint:
s/p Fall, C7 fracture

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Ms. ___ is an ___ F with ahistory of Dementia, CVA (without 
residual deficits), Ulcerative Colitis, Thyroid and Breast 
Cancer, recent diagnosis of colon adenocarcinoma s/p resection, 
hx of DVT on warfarin who presents after a mechanical fall. 
Patient reports having frequent falls over the last few months. 
Walks with a walker at baseline. Patient was bending over in her 
closet and lost her balance and then reports falling on her 
right side.  She is unclear whether she hit her head, but notes 
pain on her right side.  She explicitly denies headache, change 
in vision, or loss of consciousness. Denies any preceding aura 
or dizziness. No tongue biting or bowel/bladder incontinence.

In the ED, initial vitals were:  97.9 58 180/54 16 100%.  Labs 
were unremarkable.  CT head, c-spine revealed a possible 
fractured C7 endplate, otherwise unremarkable.  She was 
evaluated by neursurgery who recommended immobilization of her 
C-spine and follow up in 2 weeks.  Plain films of the left lower 
extremity did not reveal any acute fracture or abnormality.  
Patient was observed in the ED and evaluated by ___, who felt she 
would benefit from rehab placement.  A bed was unable to be 
found despite nearly 18 hours in the ED, so she was admitted to 
medicine for evaluation.
 
On the floor, the pt is resting comfortably. She is not in any 
current pain. She denies any fevers, chills, cp, dyspnea, n/v, 
diarrhea.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
-Dementia
-CVA (no residual deficits)
-Recurrent DVT (on warfarin)
-Ulcerative Colitis
-Thyroid cancer s/p thyroidectomy
-Breast Cancer (s/p breast conservation therapy)
-Depression
-MRSA osteomyelitis 
-Low grade colon adenocarcinoma, resected ___

 
Social History:
___
Family History:
The patient denies a history of premature cardiac disease such 
as MI, arrhythmia or sudden cardiac death. No significant 
malignancy history. Mother died at age ___ from cerebral 
aneurysm, father died in his ___ due old age. Son with ___ 
lymphoma. Daughter with spina ___. Family history of Crohn 
colitis (cousin).

 
Physical Exam:
ON ADMISSION:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

ON DISCHARGE:
VS: 98.6  153/55-156/55  ___  20  96% RA
GEN: NAD
HEENT: NC/AT, no ecchymoses, conjunctiva pink, sclera anicteric
NECK: supple, FROM, no TTP
CV: RRR, no m/r/g
LUNG: CTAP b/l
ABD:benign
EXT: ecchymoses on knees b/l, ttp over patella b/l
NEURO: grossly intact

 
Pertinent Results:
ON ADMISSION:

___ 08:32PM BLOOD WBC-8.4 RBC-3.56* Hgb-9.8*# Hct-31.0* 
MCV-87 MCH-27.6 MCHC-31.7 RDW-18.4* Plt ___
___ 08:32PM BLOOD Neuts-77.3* Lymphs-15.1* Monos-4.8 
Eos-2.4 Baso-0.4
___ 08:32PM BLOOD ___ PTT-35.2 ___
___ 08:32PM BLOOD Glucose-115* UreaN-19 Creat-0.6 Na-143 
K-3.6 Cl-109* HCO3-29 AnGap-9

RADIOLGOY:
CT C-SPINE: PRELIM
Possible fractured spur at the superior endplate of C7 
anteriorly. Correlate for focal pain. No additional injury is 
seen.
 
CT HEAD:
1. No evidence of acute intracranial process.
2. Status post right posterior fossa craniectomy with evidence 
of prior right cerebellar resection.

PLAIN FILM R HIP, KNEE, FOOT
IMPRESSION:  medicine for transfer to rehab for gait training. 

#C7 fracture: currently asymptomatic and without pain. 
-acetaminophen 650 mg TID PRN pain
-cervical col
  
Significant soft tissue swelling along the dorsum of the right 
foot. No acute fracture or dislocation. 

 
Brief Hospital Course:
___ s/p mechanical fall on warfarin with newly found C7 fracture 
and CT negative for acute intracranial changes admitted to 
medicine for transfer to rehab for gait training.

ACTIVE MEDICAL ISSUES:
#Cervical Fracture: Pt was seen by orthopedic spine surgery in 
the ED who recommended Cervical collar. Her pain was controlled 
with acetaminophen 650 mg PO q6 PRN pain. Pt was seen by ___ who 
recommended rehab.
 
CHRONIC MEDICAL ISSUES:
#Dementia: unknown etiology. Pt was continued on home donepezil 
10 mg PO qday
 
#Hx of DVT/congenital heart disease: h/o paradoxical embolism 
with unknown congenital heart defect. Pt was continued on home 
warfarin 3mg PO qday. INR on admission 2.2
 
#Depression: stable on sertraline 200mg PO qday although SSRI 
have potent anticholinergic effects that may explain the 
increase in frequency of falls in this pt. It seems she has been 
stable for years so it is unlikely that this represented the 
underlying etiology for her acute gait instability. She was 
continued on ___ sertraline 200 mg PO qday

#HLD: Pt continued on home pravastatin 80 mg PO qday

#GERD: Pt continued on home omeprazole 40 mg PO qday

TRANSITIONAL ISSUES
[] Pt will need to follow up in ___ in ___ weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 200 mg PO DAILY 
2. Donepezil 10 mg PO HS 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Pravastatin 80 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO BID 
7. Warfarin 3 mg PO DAILY16 

 
Discharge Medications:
1. Donepezil 10 mg PO HS 
2. Ferrous Sulfate 325 mg PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Pravastatin 80 mg PO DAILY 
6. Sertraline 200 mg PO DAILY 
7. Warfarin 3 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
C7 fracture

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___

You were hospitalized at ___. 
After your fall, you were taken to the emergency department 
where a CT scan of your head and neck revealed a fracture of one 
of your vertebra in your neck but no bleeding inside your brain. 
Xrays were taken of your, knee, foot and hip and they were all 
negative for any breaks. You were watched overnight and 
restarted on your home medications before being transferred to 
rehab. 

Thank you for choosing ___ for 
your medical care. All the best for the future!

Sincererly, 
___ Treatment Team
 
Followup Instructions:
___